2102-09-17 08:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2102-9-16**] 09:29 AM
   Started on CIWA q1H-- has received total of Valium 100 mg PO in last 24
   hours, plus additional 20 mg IV x 1 this am.
   Had episode of chest tightness in AM- relief with neb. No EKG changes.
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-9-16**] 05:29 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-9-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain, chest is tight
   Respiratory: Cough, Wheeze
   Psychiatric / Sleep: Agitated, tremor
   Flowsheet Data as of  [**2102-9-17**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36
C (96.8
   HR: 85 (83 - 105) bpm
   BP: 99/65(72) {95/54(65) - 140/101(105)} mmHg
   RR: 13 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  4,580 mL
                                                                     63 mL
   PO:
                                                                    900 mL
             TF:
   IVF:
                                                                    680 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                      0 mL
   Urine:
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,180 mL
                                                                     63 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   168 K/uL
   12.2 g/dL
   92 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   6 mg/dL
   101 mEq/L
   138 mEq/L
   35.1 %
   5.6 K/uL
        [image002.jpg]
                             [**2102-9-16**]  06:40 AM
                             [**2102-9-16**]  03:17 PM
                             [**2102-9-17**]  03:56 AM
   WBC
   4.1
   5.6
   Hct
   33.2
   35.1
   Plt
   168
   168
   Cr
   0.6
   0.4
   0.4
   TropT
   <0.01
   <0.01
   Glucose
   118
   119
   92
   Other labs: PT / PTT / INR:13.1/25.2/1.1, CK / CKMB /
   Troponin-T:100/3/<0.01, ALT / AST:19/46, Alk Phos / T Bili:65/0.6,
   Amylase / Lipase:73/75, Differential-Neuts:56.4 %, Lymph:36.8 %,
   Mono:4.6 %, Eos:1.7 %, Albumin:3.9 g/dL, LDH:199 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   49 year old female with h/o depression with thoughts of suicide without
   attempts, bipolar disease, COPD and active cigarette use admitted to
   ICU for ETOH withdrawal and active suicidality.
   .
   #. ETOH withdrawal: required 120 mg Valium in past 24 hours. Has had
   h/o of ETOH withdrawal seizures in past. Currently with slight tremor,
   tachycardia.  Serum/urine tox negative (other than benzos which she was
   given in hospital)
   - continue valium 10mg PO Q1hr for CIWA>10 with PRN bolus if needed
   - MVI, thiamine, folic acid
   - fall precautions
   - social work consult for substance abuse counseling
   .
   #. Active suicidality: history of depression/bipolar disease and this
   episode is in context of inquiring about her brother's death by
   suicide. Per records, patient has not taken psych meds for days to one
   month. Patient sectioned so not able to leave AMA,
   - 1:1 sitter
   - continue home lexapro and seroquel
   - psych consult
 called yesterday, they have not yet seen patient.
   Will call again today.
   - social work consult
   .
   #UTI- on day [**2-5**] of cipro.  Ecoli, sensitivities pending.
   .
   #. COPD: Patient with wheezes on exam, and with active smoking history.
   No complaints of cough, dyspnea
   - CXR
   - nebs, advair
   - nicotine patch
   .
   # Cardiovascular
had TWI in setting of tachycardia. Ruled out for MI.
   -daily aspirin
   - valium for CIWA will benefit HR control as well
   -needs outpatient stress test
   .
   #. FEN - Regular diet
   .
   #. Access - PIV
   .
   #. PPx -
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -Pain management with tylenol
   .
   #. Code - Full code
   .
   #. Dispo - ICU until need for CIWA is diminished
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2102-9-16**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2102-09-18 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient was having ongoing diarrhea, so stool was sent for C. diff
   (negative).
   She was evaluated by psych who felt patient should remain on 1:1 sitter
   for 24 hour more hours and then re-evaluate.  They recommended changing
   from lexapro to celexa because it was less expensive.
   Required 80 mg of diazepam yesterday (essential unchanged from the day
   before), but decreased need overnight.
   History obtained from Patient
   Allergies:
   History obtained from Patient
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-9-16**] 05:29 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-9-18**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-9-18**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 85 (84 - 108) bpm
   BP: 91/64(70) {91/62(70) - 130/101(104)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                    543 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                     63 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                      0 mL
   Urine:
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -558 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   168 K/uL
   12.2 g/dL
   92 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   6 mg/dL
   101 mEq/L
   138 mEq/L
   35.1 %
   5.6 K/uL
        [image002.jpg]
                             [**2102-9-16**]  06:40 AM
                             [**2102-9-16**]  03:17 PM
                             [**2102-9-17**]  03:56 AM
   WBC
   4.1
   5.6
   Hct
   33.2
   35.1
   Plt
   168
   168
   Cr
   0.6
   0.4
   0.4
   TropT
   <0.01
   <0.01
   Glucose
   118
   119
   92
   Other labs: PT / PTT / INR:13.1/25.2/1.1, CK / CKMB /
   Troponin-T:100/3/<0.01, ALT / AST:19/46, Alk Phos / T Bili:65/0.6,
   Amylase / Lipase:73/75, Differential-Neuts:56.4 %, Lymph:36.8 %,
   Mono:4.6 %, Eos:1.7 %, Albumin:3.9 g/dL, LDH:199 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   49 year old female with h/o depression with thoughts of suicide without
   attempts, bipolar disease, COPD and active cigarette use admitted to
   ICU for ETOH withdrawal and active suicidality.
   .
   #. ETOH withdrawal: required 120 mg Valium in past 24 hours. Has had
   h/o of ETOH withdrawal seizures in past. Currently with slight tremor,
   tachycardia.  Serum/urine tox negative (other than benzos which she was
   given in hospital)
   - continue valium 10mg PO Q1hr for CIWA>10 with PRN bolus if needed
   - MVI, thiamine, folic acid
   - fall precautions
   - social work consult for substance abuse counseling
   .
   #. Active suicidality: history of depression/bipolar disease and this
   episode is in context of inquiring about her brother's death by
   suicide. Per records, patient has not taken psych meds for days to one
   month. Patient sectioned so not able to leave AMA,
   - continue 1:1 sitter
   - continue celexa and seroquel
   - follow up psych recs
   - social work consult
   .
   #UTI- on day [**3-6**] of cipro for e coli UTI
   .
   #. COPD: Patient with wheezes on exam, and with active smoking history.
   No complaints of cough, dyspnea
   - CXR
   - nebs, advair
   - nicotine patch
   .
   # Cardiovascular
had TWI in setting of tachycardia. Ruled out for MI.
   -daily aspirin
   - valium for CIWA will benefit HR control as well
   -needs outpatient stress test
   .
   #. FEN - Regular diet
   .
   #. Access - PIV
   .
   #. PPx -
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -Pain management with tylenol
   .
   #. Code - Full code
   .
   #. Dispo - ICU until need for CIWA is diminished
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-9-17**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: